datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[S:15]=[C:16]([C:17]([S:18][H:22])([H:20])[H:21])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:20])[H:8])([H:6])[H:7].[S:15]=[C:16]([C:17]([S:18][H:22])[H:21])[H:19],19.2464
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](=[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[H:28])[H:27])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:23]([C:22](=[C:21]([H:25])[H:26])[H:27])([C:24]([H:29])([H:30])[H:31])[H:28])[H:12])[H:11],52.3837
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[S:6]([H:7])[H:8]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:7])[H:3].[S:6][H:8],23.8488
[C:1]1([H:3])=[C:4]([H:5])[C:6]2([H:8])[C:9]([H:10])=[C:11]([H:12])[C:13]([H:14])=[C:15]([H:16])[C:17]2[C:19]1([H:21])[H:22]>>[C:1]1([H:3])=[C:4]([H:5])[c:6]2[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:15]([H:16])[c:17]2[C:19]1([H:21])[H:22].[H:8],87.416312
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:5],57.9066
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7][C:8](=[S:9])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7](=[C:6]([H:10])[H:11])[C:8](=[S:9])[H:12],89.956
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[H:11][H:12]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:12])[H:6])([H:4])[H:5].[H:11],92.8848
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[C:14](=[C:15]([H:17])[H:18])[H:16]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:14](=[C:15]([H:17])[H:18])[H:16])([H:6])[H:7],20.3342
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8](#[C:9][C:10]([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:10]([C:9]#[C:8][H:11])([H:12])[H:13])[H:6],36.2753
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:20]([C:19]([H:22])([H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25])[H:9],12.8449
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[C:9](=[C:10]([H:22])[H:23])[H:21])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]([C:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]1([C:8]([H:18])([H:19])[H:20])[C:9](=[C:10]([H:22])[H:23])[H:21])[H:12])[H:11],115.269
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[H:16]>>[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5][c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[H:13][H:16],70.780728
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:15]([C:14]([H:17])([H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20],22.1752
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([C:25]([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])([H:32])([H:33])[H:34]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:25]([C:24]([H:32])([H:33])[H:34])([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])[H:14])([H:12])[H:13],42.2584
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([C:30]([H:33])([H:34])[H:35])([H:31])[H:32]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])([H:18])[C:29]([C:30]([H:33])([H:34])[H:35])([H:31])[H:32])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17],27.0286
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[O:5][O:6][H:17])([H:7])[H:8].[O:18][O:19]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[O:5][O:6][H:17])([H:7])([H:8])[O:18][O:19],0.8313608
